US06384041B1
To a suspension of 110 mg (0.30 mmol) of [[6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy]acetic acid methyl ester in 3 mL of chloroform was added 0.106 mL of oxalyl chloride followed by 0.10 mL of pyridine. The reaction was stirred for 48 hours at ambient temperature then an additional 0.100 mL of oxalyl chloride and 0.100 mL of pyridine was added. This mixture was stirred and additional 4 days then quenched into solution prepared from 4 mL of water and 2 mL of concentrated ammonium hydroxide. The mixture was partitioned by the addition of 20 mL of ethyl acetate and 10 mL of water. The organic phase was dried with sodium sulfate and concentrated to 91 mg of crude solid. The residue was purified by flash chromatography (7 g of silica, ethyl acetate) to provide 69 mg (53%) of [[5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a white solid. nmr (500 MHz, CDCl3) δ1.15 (t, J=7.4 Hz, 3H), 2.95 (q, J=7.4 Hz, 2H), 3.78 (s, 3H), 5.05 (s, 2H), 5.50 (s, 2H), 5.68 (br s, 1H), 6.60 (br s, 1H), 6.98 (d, J=7.4 Hz, 1H), 7.2 (s, 1H), 7.26 (m, 2H), 8.46 (s, 1H)

reactant | [[6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy]acetic acid methyl ester | 0.30 mmol, 110 mg | COC(COC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC(=CC=C2)Cl)=O | C18H18ClN3O3
reactant | oxalyl chloride | 0.106 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.10 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.100 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.100 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | [[5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 69 mg, 53% | COC(COC=1C2=C(N=CN1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)Cl)=O | C20H19ClN4O5
